US06069156
Iron powder (2.5 g) was added to a stirred mixture of methyl 3-nitro-4-trifluoromethanesulfonyloxyphenylacetate (2.97 g) and conc. hydrochloric acid (7.3 ml) in methanol (22 ml) at 0° C. in some small portion. The reaction mixture was stirred at 20° C. for 2 hours, then poured into a mixture of ethyl acetate and saturated sodium bicarbonate. The organic phase was washed with saturated sodium bicarbonate and brine, dried over sodium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of ethyl acetate and hexane (1:4) to give methyl 3-amino-4-trifluoromethanesulfonyloxyphenylacetate (2.34 g) as colorless crystals.

reactant | methyl 3-nitro-4-trifluoromethanesulfonyloxyphenylacetate | 2.97 g | [N+](=O)([O-])C=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)CC(=O)OC | C10H8F3NO7S
reactant | hydrochloric acid | 7.3 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 22 ml | CO | CH4O
catalyst | Iron | 2.5 g | [Fe] | Fe
product | methyl 3-amino-4-trifluoromethanesulfonyloxyphenylacetate | 2.34 g | NC=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)CC(=O)OC | C10H10F3NO5S
